US08378104B2
trans-4-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol
4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine (25 mg, 0.046 mmol) was dissolved in THF (1.00 mL) and tetra-n-butylammonium fluoride (1.0 M in THF, 1.00 mL, 1.00 mmol) was added and stirred at RT for 16 h. The reaction was then washed with sodium bicarbonate and water (2×). The organic layer was collected, dried over sodium sulfate, filtered, and then concentrated in vacuo to a solid. Purification by flash chromatography (0 to 5% 7 N NH3/MeOH:EtOAc) afforded 5.5 mg (28%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 9.33 (d, J=0.51 Hz, 1H), 8.57 (d, J=6.06 Hz, 1H), 8.49 (d, J=6.06 Hz, 1H), 8.35 (dd, J=7.33, 1.26 Hz, 1H), 8.24 (d, J=8.08 Hz, 1H), 8.11 (s, 1H), 7.92 (s, 1H), 7.90 (d, J=0.76 Hz, 1H), 7.83 (dd, J=8.21, 7.45 Hz, 1H), 7.50 (s, 1 H), 4.25 (tt, J=11.84, 3.82 Hz, 1H), 3.69 (tt, J=10.89, 4.26 Hz, 1H), 2.07-2.22 (m, 4H), 1.95-2.05 (m, 2H), 1.45-1.57 (m, 2H); MS (ESI): 427.19 [M+H]+; HPLC tR=0.87 min (TOF: polar—3 min).

reactant | 4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-7-amine | 0.046 mmol, 25 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=C1C=CN=CC1=CC=C2 | C31H37N5O2Si
reactant | tetra-n-butylammonium fluoride | 1.00 mmol, 1.0 M, 1.00 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
product | trans-4-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | 5.5 mg, 28% | NC=1N=CC(=C2C1OC(=C2)C2=C1C=CN=CC1=CC=C2)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O | C25H23N5O2
